US05281747
A solution of 15.0 g of isobutyl P-methylphosphonite and 5.3 g of acrylonitrile in 50 ml of dry ethanol is added to a stirred mixture of 0.5 g of sodium (50% dispersion in oil) in 25 ml of ethanol, at 0° C., under an atmosphere of nitrogen. The reaction mixture is allowed to warm to room temperature, and stirred for 4 hours. 1 ml of glacial acetic acid is added and the mixture is concentrated under reduced pressure. The resulting crude product is dissolved in 50 ml of ethyl acetate, washed twice with 20 ml of water, and the organic extract is dried over magnesium sulphate, and then concentrated under reduced pressure. The crude product is distilled to give isobutyl P-(2-cyanoethyl)-P-methyl-phosphinate, b.p. 140°/0.2 mbar, 31P-NMR spectrum: δ=+50.5 ppm (CDCl3).

reactant | isobutyl P-methylphosphonite | 15.0 g | CP(OCC(C)C)[O-]
reactant | acrylonitrile | 5.3 g | C(C=C)#N | C3H3N
reactant | sodium | 0.5 g | [Na] | Na
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | isobutyl P-(2-cyanoethyl)-P-methyl-phosphinate | C(#N)CCP(OCC(C)C)(=O)C | C8H16NO2P
